US06767909B2
4-{[(2,6-Dichloro-phenyl)-hydroxy-methyl]-amino}-N-(4,6-dimethyl-pyrimidin-2-yl)-benzenesulfonamide
11 mg (0.02 mmol) of 2,6-dichloro-N-[4-(4,6-dimethylpyrimidin-2-yl-sulfamoyl)-phenyl]-benzamide was dissolved in 2 ml tetrahydrofurane. Lithium aluminium hydride (6 mg, 0.16 mmol) was added to the reaction mixture under nitrogen atmosphere and solution was stirred overnight. The reaction mixture was filtered, evaporated to dryness and purified by on silica using gradient elution (chloroform to 4% methanol in chloroform) to obtain the title compound with a yield of 18%. MS (ESI+): m/z 475 (M+Na)+.

reactant | 2,6-dichloro-N-[4-(4,6-dimethylpyrimidin-2-yl-sulfamoyl)-phenyl]-benzamide | 0.02 mmol, 11 mg | ClC1=C(C(=O)NC2=CC=C(C=C2)S(NC2=NC(=CC(=N2)C)C)(=O)=O)C(=CC=C1)Cl | C19H16Cl2N4O3S
reactant | Lithium aluminium hydride | 0.16 mmol, 6 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofurane | 2 ml | O1CCCC1 | C4H8O
product | 4-{[(2,6-Dichloro-phenyl)-hydroxy-methyl]-amino}-N-(4,6-dimethyl-pyrimidin-2-yl)-benzenesulfonamide | yield of 18% | ClC1=C(C(=CC=C1)Cl)C(O)NC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=CC(=N1)C)C | C19H18Cl2N4O3S
